US04542216
(a) 2-Methylthio-4-difluoromethoxy-6-methylpyrimidine
218.7 g (1.4 mols) of 2-methylthio-4-hydroxy-6-methylpyrimidine are suspended in 1.12 litres of dioxane, and 1500 g (11.2 mols) of 30% aqueous sodium hydroxide solution are added. The suspension is heated to 80° C., and into this hot suspension are passed, in the course of 3 hours, 242 g (2.8 mols) of difluorochloromethane. The pale yellow suspension obtained is cooled to 20° C. and filtered. The residue is washed with dioxane and dried to thus yield 210 g of 2-methylthio-4-difluoromethoxy-6-methylpyrimidine. The filtrate is extracted with methylene chloride, and the organic phase is washed with water and concentrated by evaporation to obtain, as crystalline residue, a further 79 g of the desired product. The overall yield obtained in this manner is 289 g of 2-methylthio-4-difluoromethoxy-6-methylpyrimidine (100% of theory), m.p. 40-42° C.

reactant | 2-methylthio-4-hydroxy-6-methylpyrimidine | 1.4 mols, 218.7 g | CSC1=NC(=CC(=N1)O)C | C6H8N2OS
reactant | sodium hydroxide | 11.2 mols, 1500 g | [OH-].[Na+]
reactant | difluorochloromethane | 2.8 mols, 242 g | FC(Cl)F | CHClF2
solvent | dioxane | 1.12 litres | O1CCOCC1 | C4H8O2
product | 2-Methylthio-4-difluoromethoxy-6-methylpyrimidine | 79 g | CSC1=NC(=CC(=N1)OC(F)F)C | C7H8F2N2OS
